US07449466B2
Production Example 30 was repeated except that 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine was replaced with 1-(4-benzyloxy-3-fluorophenyl)-4-(3-cyclopentylpropyl)-piperazine (494 mg), to provide 4-[4-(3-cyclo-pentylpropyl)piperazin-1-yl]-2-fluorophenol hydrochloride (398 mg).

reactant | 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCCC1)Cl | C26H35ClN2O
reactant | 1-(4-benzyloxy-3-fluorophenyl)-4-(3-cyclopentylpropyl)-piperazine | 494 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCC1)F | C25H33FN2O
product | 4-[4-(3-cyclo-pentylpropyl)piperazin-1-yl]-2-fluorophenol hydrochloride | 398 mg | Cl.C1(CCCC1)CCCN1CCN(CC1)C1=CC(=C(C=C1)O)F | InChI=1S/C18H27FN2O.ClH/c19-17-14-16(7-8-18(17)22)21-12-10-20(11-13-21)9-3-6-15-4-1-2-5-15;/h7-8,14-15,22H,1-6,9-13H2;1H
